US06506750B1
3,5-Diethylphenylacetic Acid
A mixture of 20 g of 4-bromo-2,6-diethylaniline, 160 ml of acetic acid, 100 ml of a concentrated HCl solution, 30 ml of water and 100 ml of EtOH is cooled to −5° C., a solution of 6.6 g of sodium nitrite in 25 ml of water is added dropwise and the mixture is left stirring for 30 minutes at RT. The reaction mixture is poured over 170 ml of 50% H3PO2 cooled to 0° C., the mixture is left stirring for 2 hours at 0° C. and then for 48 hours at RT. The reaction mixture is extracted with ether, the organic phase washed with water, with a 1N NaOH solution, with water, dried over Na2SO4 and the solvent evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with cyclohexane. 18 g of the expected product are obtained.

reactant | 4-bromo-2,6-diethylaniline | 20 g | BrC1=CC(=C(N)C(=C1)CC)CC | C10H14BrN
reactant | HCl | 100 ml | Cl | ClH
reactant | sodium nitrite | 6.6 g | N(=O)[O-].[Na+]
reactant | H3PO2 | 170 ml | O[PH2]=O | H3O2P
reactant | EtOH | 100 ml | CCO | C2H6O
solvent | water | 25 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | 3,5-Diethylphenylacetic Acid | 18 g | C(C)C=1C=C(C=C(C1)CC)CC(=O)O | C12H16O2
